US06313122B1
B. N-(4-Methoxybenzoyl)-2-(5-amino-1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)benzeneamine
A solution of N-(4-methoxybenzoyl)-2-(5-nitro-1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)benzeneamine (1.11 g, 2.66 mmol) and 5% palladium-on-carbon (1.21 g) in 2:1 ethanol:ethyl acetate (200 mL) was placed under 1 atmosphere of hydrogen. After consumption of the starting material (about 2-3 h), the mixture was filtered through diatomaceous earth and the resulting filtrate concentrated in vacuo. Recrystallization from hexanes/ethyl acetate yielded 596 mg (58%) of the title compound.

reactant | N-(4-methoxybenzoyl)-2-(5-nitro-1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)benzeneamine | 2.66 mmol, 1.11 g | COC1=CC=C(C(=O)NC2=C(C=CC=C2)N2C(C3=CC=C(C=C3C2=O)[N+](=O)[O-])=O)C=C1 | C22H15N3O6
reactant | ethanol | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | 1.21 g | [Pd] | Pd
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | N-(4-Methoxybenzoyl)-2-(5-amino-1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)benzeneamine | 596 mg, 58% | COC1=CC=C(C(=O)NC2=C(C=CC=C2)N2C(C3=CC=C(C=C3C2=O)N)=O)C=C1 | C22H17N3O4
